US04788130
To a mixture of 140 g of 2'-methoxy-5'-methylpropiophenone, 83.4 g of benzaldehyde and 1.5 lilers of ethanol was added 154 ml of 20%-sodium hydroxide aqueous solution under stirring. The reaction mixture was stirred overnight at room temperature, then 10%-hydrochloric acid was added to make the reaction mixture acidic, and extracted with benzene. The benzene extract was washed with water and an aqueous solution saturated with sodium chloride in this order, then dried to obtain 212 g of 2'-methoxy-5'-methyl-2-benzylidenepropiophenone. Yellow oily substance.

reactant | 2'-methoxy-5'-methylpropiophenone | 140 g | COC1=C(C=C(C=C1)C)C(CC)=O | C11H14O2
reactant | benzaldehyde | 83.4 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 2'-methoxy-5'-methyl-2-benzylidenepropiophenone | 212 g | COC1=C(C=C(C=C1)C)C(C(C)=CC1=CC=CC=C1)=O | C18H18O2
